US04415572
A mixture of 25 g of 6-aminocarbostyril, 50 g of bis(β-bromoethyl)amine hydrobromide and DMF was stirred at 80°-90° C. for 3 hours. After cooling to room temperature, 8.2 g of Na2CO3 was added to the mixture and stirred at 80°-90° C. for 4 hours. After cooling to room temperature, crystals which precipitated were collected by filtration, washed with ethanol and dried to give 22 g of 6-(1-piperazinyl)carbostyril hydrobromide, m.p. above 300° C., pale yellow rhombic crystals (water-ethanol).

reactant | 6-aminocarbostyril | 25 g | NC=1C=C2C=CC(NC2=CC1)=O | C9H8N2O
reactant | bis(β-bromoethyl)amine hydrobromide | 50 g | Br.BrCCNCCBr
reactant | Na2CO3 | 8.2 g | C(=O)([O-])[O-].[Na+].[Na+]
solvent | DMF | CN(C)C=O | C3H7NO
product | 6-(1-piperazinyl)carbostyril hydrobromide | 22 g | Br.N1(CCNCC1)C=1C=C2C=CC(NC2=CC1)=O | InChI=1S/C13H15N3O.BrH/c17-13-4-1-10-9-11(2-3-12(10)15-13)16-7-5-14-6-8-16;/h1-4,9,14H,5-8H2,(H,15,17);1H
